US07622493B2
spiro[chroman-2,1′-cyclohexan]-4-one
A mixture of 2′-hydroxyacetophenone (Aldrich, CAS# 118-93-4, 2.72 g, 20 mmol), cyclohexanone (2.7 mL, 26.1 mmol), and pyrrolidine (1.66 mL, 19.9 mmol) was stirred in 6 mL toluene at room temperature for 1 h and at reflux (Dean-Stark trap) for 4 h. After cooling to room temperature, the mixture was diluted with ether (30 mL), washed sequentially with 2N HCl (10 mL), 2NNaOH (10 mL), and H2O (10 mL), dried over Na2SO4, and filtered. Evaporation of volatiles in vacuo afforded the crude title compound, which was used without further purification.

reactant | 2′-hydroxyacetophenone | 20 mmol, 2.72 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | cyclohexanone | 26.1 mmol, 2.7 mL | C1(CCCCC1)=O | C6H10O
reactant | pyrrolidine | 19.9 mmol, 1.66 mL | N1CCCC1 | C4H9N
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | 30 mL | CCOCC | C4H10O
product | spiro[chroman-2,1′-cyclohexan]-4-one | C12(CCCCC1)OC1=CC=CC=C1C(C2)=O | C14H16O2
